US07932272B2
Furo[2,3-b]pyridine-5-carboxylic acid (31 mg) was obtained as a lithium salt from furo[2,3-b]pyridine-5-carboxylic acid ethyl ester described in Preparation Example P-4 (33 mg, 0.17 mmol) according to an analogous method to Example T-2.

reactant | lithium | [Li] | Li
reactant | furo[2,3-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C2C(=NC1)OC=C2 | C10H9NO3
product | Furo[2,3-b]pyridine-5-carboxylic acid | 31 mg | O1C=CC=2C1=NC=C(C2)C(=O)O | C8H5NO3
